US04298743
2-[2-(3,4-Dichlorophenyl)thiazol-4-yl]acetonitrile
To 2-[2-(3,4-dichlorophenyl)thiazol-4-yl]-acetamide (2.87 g., 0.01 mole) in pyridine (30 ml.) is added gradually p-toluenesulfonyl chloride (1.91 g., 0.01 mole). After stirring for one hour, the mixture is poured into excess ice-water to give the title compound.

reactant | 2-[2-(3,4-dichlorophenyl)thiazol-4-yl]-acetamide | 0.01 mole, 2.87 g | ClC=1C=C(C=CC1Cl)C=1SC=C(N1)CC(=O)N | C11H8Cl2N2OS
reactant | p-toluenesulfonyl chloride | 0.01 mole, 1.91 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(3,4-Dichlorophenyl)thiazol-4-yl]acetonitrile | ClC=1C=C(C=CC1Cl)C=1SC=C(N1)CC#N | C11H6Cl2N2S
